US06048885
Ethyl orthoformate (2 ml) was added to 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetohydrazide (0.49 g, 1.5 mmol), and the mixture was stirred under reflux for 4 hours. After completion of the reaction, water (100 ml) was added, and the mixture was extracted with dichloromethane. The dichloromethane layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give 2-(2,5-dimethylphenoxymethyl)phenyl 1,3,4-oxadiazol-2-yl ketone O-methyloxime (0.10 g, 19.8%) as colorless crystals.

reactant | Ethyl orthoformate | 2 ml | C(OCC)([O-])[O-]
reactant | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetohydrazide | 1.5 mmol, 0.49 g | CC1=C(OCC2=C(C=CC=C2)C(C(=O)NN)=NOC)C=C(C=C1)C | C18H21N3O3
solvent | water | 100 ml | O | H2O
product | 2-(2,5-dimethylphenoxymethyl)phenyl 1,3,4-oxadiazol-2-yl ketone O-methyloxime | 0.10 g, 19.8% | CON=C(C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)C=1OC=NN1 | C19H19N3O3
